US08067187B2
Aggregation of Platelets Induced by Amyloid-β is Inhibited by Haematein
In a second series of experiments, the influence of ellagic acid, another stimulator of the interaction between tPA and misfolded proteins, on Aβ induced platelet aggregation was assessed. Ellagic acid was first dissolved to 100 mg/ml in DMSO, and then further diluted to 1 mg/ml in HBS buffer. Final concentrations of Aβ and ellagic acid in the aggregation assay were 50 μg/ml and 25/50 μg/ml, respectively. In addition, the influence of ellagic acid alone on platelet aggregation was tested. As a control, the influence of 0.08% DMSO on 50 μg/ml Aβ-induced platelet aggregation was analyzed. The 100% DMSO of the ellagic acid stock was diluted 2000 and 4000×, resulting in 0.005% and 0.0025% final DMSO concentrations in the aggregation assay.

reactant | ellagic acid | C1=C2C=3C=4C(=CC(=C(C4OC2=O)O)O)C(=O)OC3C(=C1O)O | C14H6O8
solvent | DMSO | CS(=O)C | C2H6OS
product | Haematein | C1C2=CC(=O)C(=CC2=C3C1(COC4=C3C=CC(=C4O)O)O)O | C16H12O6
